US08222245B2
1,1-Dimethylethyl 6-cyano-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate
1,1-dimethylethyl 6-{[(trifluoromethyl)sulfonyl]oxy}-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate (Preparation 13) (5 g), zinc (II) cyanide (1.5 g) and tetrakis(triphenylphoshine)palladium(0) (1.5 g) were heated in dry DMF at 150° C. for 18 hours. The cooled reaction mixture was diluted with EtOAc (200 ml) and filtered. The filtrate was washed with saturated sodium bicarbonate, (200 ml), water (200 ml) and brine (200 ml). The crude reaction mixture was dried in the usual manner and evaporated. Purification by chromatography (eluting with DCM) yielded the title compound (3.4 g). δH (400 MHz, CDCl3) 7.50 (1H, d), 7.35 (1H, d), 7.27-7.21 (1H), m), 3.62-3.56 (4H, m), 3.22-3.20 (2H, m), 2.97-2.94 (2H, m), 1.47 (9H, s); MS (ES) C16H20N2O2 requires 272; found 217 [M+H−56]+, 273 [M+H]+.

reactant | 1,1-dimethylethyl 6-{[(trifluoromethyl)sulfonyl]oxy}-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 5 g | FC(S(=O)(=O)OC1=CC=CC=2CCN(CCC21)C(=O)OC(C)(C)C)(F)F | C16H20F3NO5S
reactant | DMF | CN(C)C=O | C3H7NO
solvent | EtOAc | 200 ml | CCOC(=O)C | C4H8O2
catalyst | zinc (II) cyanide | 1.5 g | [C-]#N.[Zn+2].[C-]#N
product | 1,1-Dimethylethyl 6-cyano-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 3.4 g | C(#N)C1=CC=CC=2CCN(CCC21)C(=O)OC(C)(C)C | C16H20N2O2
